US04073917
1-n-Propoxy-2-(2'-diisopropylaminoethoxy)-benzene
The compound was prepared as described in Example 1, using sodium (3.45 g; 150 mole), 0-propoxyphenol (11.4 g; 75 mmole) and diisopropylaminoethylchloride hydrochloride (15.0 g; 75 mmole) in 200 ml of ethanol. Yield 12.7 g (64%) of product, boiling at 109°-110° C under a pressure of 0.001 mm.Hg, nD25 : 1.4961. Calcd. for C17H29NO2 : C 73.07%, H 10.46%, N 5.01%. Found C 73.2% H 10.5%, N 4.96%.

reactant | sodium | 150 mole, 3.45 g | [Na] | Na
reactant | 0-propoxyphenol | 75 mmole, 11.4 g | C(CC)OC1=C(C=CC=C1)O | C9H12O2
reactant | diisopropylaminoethylchloride hydrochloride | 75 mmole, 15.0 g | Cl.C(C)(C)N(C(C)C)CCCl
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-n-Propoxy-2-(2'-diisopropylaminoethoxy)-benzene | C(CC)OC1=C(C=CC=C1)OCCN(C(C)C)C(C)C | C17H29NO2
